US06593493B1
1,2,3,4-Tetrahydro-1,1,4,4,6-pentamethylbenzo[5,6-g]coumarin (Structure 4 of Schemes 1 and 2, where R1, R4, R6=H, R2 and R3 together form a tetramethyl saturated six-membered carbocyclic ring, R5=methyl). To a flame-dried 50-mL r.b. flask containing 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-ol (2.03 g, 9.94 mmol) in 4 mL 75% H2SO4 was added ethyl acetoacetate (Structure 3 of Scheme 1, where R5=methyl, R6=H, R′=ethyl) (3.19 mL, 25.0 mmol, 2.52 equiv), and the mixture was heated to 100° C. for 3 h. Upon cooling to room temperature, the mixture was poured over ice (50 g), diluted with saturated NaHCO3 (50 mL), and stirred for 30 min. The mixture was then extracted with EtOAc (3×50 mL) and the organic layer was washed with brine (50 mL), dried (Na2SO4), and concentrated under reduced pressure. The crude product mixture was purified by flash column chromatography (silica gel, hexanes/EtOAc, 4:1) to remove residual ethyl acetoacetate, providing the desired coumarin as a white solid (Rf0.62, hexanes/EtOAc, 2:1). Recrystallization from hexanes/EtOAc afforded 2.12 g (79%) of 1,2,3,4-tetrahydro-1,1,4,4,6-pentamethylbenzo[5,6-g]coumarin as white prisms (mp 126-128° C.). 1H NMR (400 MHz, CDCl3) 7.51 (s, 1H), 7.25 (s, 1H), 6.20 (d, 1H, J=0.8 Hz), 2.43 (d, 3H, J=0.9 Hz), 1.72 (s, 4H), 1.33 and 1.31 (2s, 2×3H). 13C NMR (100 MHz, CDCl3) 161.2, 152.2, 151.4, 150.4, 141.5, 122.2, 117.9, 114.3, 107.1, 34.92, 34.84, 34.58, 34.20, 32.22, 31.83, 18.49. IR (thin film) 2923 (m), 1716 (s), 1612 (m). Anal. Calcd for C18H22O: C, 79.96; H, 8.20. Found: C, 80.06; H, 8.06.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-ol | 9.94 mmol, 2.03 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
